US07534893B2
4-(4-fluorophenyl)-4-isocyanato-1-methylpiperidine
4-(4-fluorophenyl)-1-methyl-4-piperidinecarboxylic acid hydrochloride (273 mg) was dissolved in dry toluene (10 mL) and, under a Nitrogen athmosphere and at r.t., TEA (0.33 mL) and diphenylphosphoryl azide (0.34 mL) were added. The mixture was refluxed for 4 h. Then water and AcOEt were added; the organic phase was separated and washed with brine, dried and evaporated under vacuum to give a crude which was purified by flash chromatography (elution with DCM:MeOH 9:1) to afford the title compound (47 mg) as white foam.

reactant | 4-(4-fluorophenyl)-1-methyl-4-piperidinecarboxylic acid hydrochloride | 273 mg | Cl.FC1=CC=C(C=C1)C1(CCN(CC1)C)C(=O)O
reactant | diphenylphosphoryl azide | 0.34 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | water | O | H2O
reactant | AcOEt | CCOC(=O)C | C4H8O2
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 4-(4-fluorophenyl)-4-isocyanato-1-methylpiperidine | 47 mg | FC1=CC=C(C=C1)C1(CCN(CC1)C)N=C=O | C13H15FN2O
